US08859541B2
E5b) tert-butyl-N-methyl-N-[1-[[5-(oxane-4-carbonylamino)-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate
A mixture of 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid (34 mg, 0.17 mmol) and N,N′-dicyclohexylcarbodiimide (17 mg, 0.08 mmol) in DCM (1 ml) is stirred at RT for 20 minutes. This mixture is added to N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]oxane-4-carboxamide D5b (28 mg, 0.09 mmol) and DIPEA (17 μl; 0.10 mmol) in DCM (1 ml). After stirring for 6 days at 40° C. the reaction mixture is diluted with DCM and extracted with water. The combined organic layers are dried over MgSO4 to and concentrated in vacuo. The crude product (70 mg) is used in the next step without further purification.

reactant | 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid | 0.17 mmol, 34 mg | CN(C(C(=O)O)C)C(=O)OC(C)(C)C | C9H17NO4
reactant | N,N′-dicyclohexylcarbodiimide | 0.08 mmol, 17 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-[6-amino-2-(2-phenylethynyl)pyridin-3-yl]oxane-4-carboxamide | NC1=CC=C(C(=N1)C#CC1=CC=CC=C1)NC(=O)C1CCOCC1 | C19H19N3O2
reactant | DIPEA | 0.10 mmol, 17 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl-N-methyl-N-[1-[[5-(oxane-4-carbonylamino)-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)NC(=O)C1CCOCC1)C#CC1=CC=CC=C1)C)C)=O | C28H34N4O5
